US04569690
Ethyl 3-(trifluoromethyl)benzenecarbodithioate (24.7 g, 0.1 mol) was dissolved in ethanol (50 ml) in which was suspended hydroxylamine hydrochloride (7 g, 0.1 mol). With stirring, triethylamine (10.1 g, 0.1 mol) in ethanol (25 ml) was added dropwise. After 5 hours, ethyl mercaptan was removed under reduced pressure through a KOH scrubber. 1,2-Dibromoethane (19 g, 0.1 mol) was added to the reaction mixture followed by dropwise addition of triethylamine (30 ml) in ethanol (50 ml). A white precipitate formed. After the addition was complete, the reaction mixture was warmed until it was homogeneous, then left at room temperature overnight. Water was added, the product extracted into ether, the ether solution washed with dilute sodium hydroxide (2N approx.), then water, dried over anhydrous magnesium sulphate and evaporated to leave an oil which was distilled to give 5,6-dihydro-3-[3-(trifluoromethyl)phenyl]-1,4,2-oxathiazine, bp 113°/0.2 mm.

reactant | Ethyl 3-(trifluoromethyl)benzenecarbodithioate | 0.1 mol, 24.7 g | FC(C=1C=C(C=CC1)C(=S)SCC)(F)F | C10H9F3S2
reactant | hydroxylamine hydrochloride | 0.1 mol, 7 g | Cl.NO
reactant | triethylamine | 0.1 mol, 10.1 g | C(C)N(CC)CC | C6H15N
reactant | 1,2-Dibromoethane | 0.1 mol, 19 g | BrCCBr | C2H4Br2
reactant | triethylamine | 30 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | Water | O | H2O
product | 5,6-dihydro-3-[3-(trifluoromethyl)phenyl]-1,4,2-oxathiazine | FC(C=1C=C(C=CC1)C1=NOCCS1)(F)F | C10H8F3NOS
